US03983107
A mixture of 5 g. of N-(N,N-diphenylcarbamoyl)-2-phenylethenesulfonamide and 10.3 g. of ethyl isonipecotate in 20 ml. of N,N-dimethylformamide is maintained at ca. 90° C. for 40 minutes. The mixture is cooled to ambient temperature, diluted with ether, and then it is extracted with water. The water extract is acidified using concentrated hydrochloric acid, and then it is extracted with methylene chloride. The dried methylene chloride is evaporated to dryness in vacuo leaving a viscous oil. The oil is redissolved in a small volume of tetrahydrofuran, absorbed onto a column of silica gel, and then eluted from the column with an excess of the same solvent. The solvent is evaporated in vacuo, and the residue is dissolved in 50 ml. of 0.5N sodium hydroxide solution. After 1 hour it is re-precipitated by acidification, and recovered by vacuum filtration in the form of white crystals. It is then dissolved in a mixture of 100 ml. of acetone and 100 ml. of tetrahydrofuran, and the solution is concentrated slowly to effect precipitation of the product. The solid is filtered off, and then triturated with acetone to give pure N-([4-carboxypiperidino]carbonyl)-2-phenylethenesulfonamide, m.p. 179°-181° C.

reactant | N-(N,N-diphenylcarbamoyl)-2-phenylethenesulfonamide | C1(=CC=CC=C1)N(C(=O)NS(=O)(=O)C=CC1=CC=CC=C1)C1=CC=CC=C1 | C21H18N2O3S
reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-([4-carboxypiperidino]carbonyl)-2-phenylethenesulfonamide | C(=O)(O)C1CCN(CC1)C(=O)NS(=O)(=O)C=CC1=CC=CC=C1 | C15H18N2O5S
